US08383821B2
5-(4-Methoxy-3-(((4-phenylpiperidin-4-yl)methoxy)methyl)phenyl)picolinonitrile.
tert-Butyl 4-((5-(6-cyanopyridin-3-yl)-2-methoxybenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (46 mg, 0.090 mmol) was dissolved in trifluoroacetic acid (33% in dichloromethane, 4 mL) and stirred for 1 h. The reaction was concentrated and purified by column chromatography (5% methanol/dichloromethane/2% trimethylamine in ethanol→10% methanol/dichloromethane/2% trimethylamine in ethanol) to give 43.6 mg (quant.) as a colorless oil. The product was tainted with trimethylamine 2,2,2-trifluoroacetate. 1H NMR (500 MHz, CDCl3) δ ppm 9.47 (bs, 1H), 9.25 (bs, 1H), 8.79 (m, 1H), 7.84 (m, 1H), 7.70 (d, J=8.2 Hz, 1H), 7.44 (dd, J=8.5, 2.1, 1H), 7.33 (m, 5H), 7.25 (m, 1H), 6.91 (d, J=8.5 Hz, 1H), 4.47 (s, 2H), 3.82 (s, 3H), 3.48 (s, 2H), 3.27 (bd, 2H), 2.90 (m, 2H), 2.44 (m, 2H), 2.26 (m, 2H); 13C NMR (126 MHz, CDCl3) δ ppm 157.8, 149.3, 140.5, 139.5, 134.3, 131.4, 129.1, 128.5, 128.2, 127.9, 127.2, 126.8, 126.6, 117.7, 110.8, 79.9, 67.7, 55.6, 41.1, 40.6, 29.1. Mass spec.: 414.19 (MH)+. Accurate mass spec.: m/z 414.2188 [MH]+, Δ=1.6 ppm.

reactant | tert-Butyl 4-((5-(6-cyanopyridin-3-yl)-2-methoxybenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.090 mmol, 46 mg | C(#N)C1=CC=C(C=N1)C=1C=CC(=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C1)OC | C31H35N3O4
reactant | trimethylamine 2,2,2-trifluoroacetate | FC(C(=O)O)(F)F.CN(C)C
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(4-Methoxy-3-(((4-phenylpiperidin-4-yl)methoxy)methyl)phenyl)picolinonitrile | COC1=C(C=C(C=C1)C=1C=CC(=NC1)C#N)COCC1(CCNCC1)C1=CC=CC=C1 | C26H27N3O2
